US04933367
A solution of 1.84 g (48.6 mmol) of sodium hydroboride in 175 ml of ethanol is added rapidly, with stirring, to a solution of 11.25 g (44 mmol) of 7-(4-chlorophenyl)-2-oxoheptanoic acid in 175 ml of ethanol at 50° C. Then the mixture is let stand for 3 hours at room temperature, the reaction mixture is concentrated, and the residue is dissolved with water. After acidification the aqueous phase is extracted with acetic ester. The organic extracts are dried and concentrated. The residual oil is dissolved in aqueous sodium hydrogen carbonate solution, the solution is clarified with charcoal, and the oil that separates after acidification is dissolved with ether. By concentrating the dried ether solution, 7.4 g is obtained (65% of theory) of 7-(4-chlorophenyl)-2-hydroxyheptanoic acid, M.P. 78°-81° C.

reactant | sodium | 48.6 mmol, 1.84 g | [Na] | Na
reactant | 7-(4-chlorophenyl)-2-oxoheptanoic acid | 44 mmol, 11.25 g | ClC1=CC=C(C=C1)CCCCCC(C(=O)O)=O | C13H15ClO3
solvent | ethanol | 175 ml | C(C)O | C2H6O
solvent | ethanol | 175 ml | C(C)O | C2H6O
product | 7-(4-chlorophenyl)-2-hydroxyheptanoic acid | 65% | ClC1=CC=C(C=C1)CCCCCC(C(=O)O)O | C13H17ClO3
